US04634710
4.7 g of 4-ethoxy-5-methyl-2-pyridylmethanol, dissolved in 30 ml of methylene chloride, were added dropwise at 0° to 2.4 ml of thionyl chloride in 60 ml of methylene chloride. After stirring at room temperature for 16 hours 400 ml of ether were added dropwise thereto while cooling and the mixture was stirred at room temperature for a further 2 hours. The separated crystals were filtered off under suction and washed with ether. There was obtained 2-chloromethyl-4-ethoxy-5-methylpyridine hydrochloride of melting point 144°-146°.

reactant | 4-ethoxy-5-methyl-2-pyridylmethanol | 4.7 g | C(C)OC1=CC(=NC=C1C)CO | C9H13NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | ether | 400 ml | CCOCC | C4H10O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 2-chloromethyl-4-ethoxy-5-methylpyridine hydrochloride | Cl.ClCC1=NC=C(C(=C1)OCC)C | InChI=1S/C9H12ClNO.ClH/c1-3-12-9-4-8(5-10)11-6-7(9)2;/h4,6H,3,5H2,1-2H3;1H
